US04540692
A mixture of methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide (1.5 g) and 2-amino-5-chloro-2,4,6-cycloheptatrien-1-one (0.87 g) in xylene (37 ml) was refluxed for 24 hours. The reaction mixture was cooled to room temperature. The crystals were collected by filtration and recrystallized from N,N-dimethylformamide to give N-(5-chloro-1-oxo-2,4,6-cycloheptatrien-2-yl)-4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide (0.89 g).

reactant | methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide | 1.5 g | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)OC | C11H11NO5S
reactant | 2-amino-5-chloro-2,4,6-cycloheptatrien-1-one | 0.87 g | NC=1C(C=CC(=CC1)Cl)=O | C7H6ClNO
solvent | xylene | 37 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-(5-chloro-1-oxo-2,4,6-cycloheptatrien-2-yl)-4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | 0.89 g | ClC1=CC=C(C(C=C1)=O)NC(=O)C=1N(S(C2=C(C1O)C=CC=C2)(=O)=O)C | C17H13ClN2O5S
